US08633173B2
6-[8-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (0.250 g, 0.763 mmol) and 6-amino-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (0.284 g, 1.14 mmol) in a manner analogous to Example 311a and 311b to give product. MP=86-90° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.59 (s, 1H), 8.78 (d, 1H), 7.95 (s, 1H), 7.80 (d, 1H), 7.62 (d, 1H), 7.45 (m, 2H), 7.38 (d, 1H), 7.05 (m, 2H), 4.40 (m, 2H), 3.85 (s, 3H), 3.52 (m, 2H), 2.75 (m, 2H), 1.42 (s, 9H): MS=540 (MH)+.

reactant | 2-chloro-8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.763 mmol, 0.250 g | ClC1=NN2C(C(=CC=C2)C2=C(C=CC(=C2)C(F)(F)F)OC)=N1 | C14H9ClF3N3O
reactant | 6-amino-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 1.14 mmol, 0.284 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)N | C14H20N2O2
product | 6-[8-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)NC1=NN2C(C(=CC=C2)C2=C(C=CC(=C2)C(F)(F)F)OC)=N1 | C28H28F3N5O3
